US04515948
A suspension of 20.9 g. of 2',6'-dimethoxy-N-methyl-4'-[(methylsulfonyl)acetyl]-acetanilide and 9.5 g. of sodium borohydride in 300 ml. of ethanol was stirred at room temperature for 20 hours. The solution was diluted with 300 ml. of water and the alcohol removed under vacuum. The resulting suspension was extracted with two 1 liter portions of ethyl acetate. The ethyl acetate extracts were washed with two 200 ml. portions of water, combined, dried over magnesium sulfate and evaporated under vacuum. Recrystallization of the residue from ethyl acetate gave 4'-[1-hydroxy-2-(methylsulfonyl)-ethyl]-2',6'-dimethoxy-N-methyl-acetanilide having a melting point of 175°-177° C.

reactant | 2',6'-dimethoxy-N-methyl-4'-[(methylsulfonyl)acetyl]-acetanilide | COC1=C(N(C(C)=O)C)C(=CC(=C1)C(CS(=O)(=O)C)=O)OC | C14H19NO6S
reactant | sodium borohydride | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4'-[1-hydroxy-2-(methylsulfonyl)-ethyl]-2',6'-dimethoxy-N-methyl-acetanilide | OC(CS(=O)(=O)C)C1=CC(=C(N(C(C)=O)C)C(=C1)OC)OC | C14H21NO6S
